US09062092B2
Compound 48a. Ethyl 2,2-bis(hydroxymethyl)-3-oxobutanoate
To a stirred solution of ethyl acetoacetate (150 g, 1.2 mol) in formaldehyde (210 mL, 2.8 mol, 40% aq.) and dioxane (550 mL) was added dropwise triethylamine (1.0 M in tetrahydrofuran, 57 mL, 0.06 mol) at 0° C. The temperature was raised up to 35-40° C. and the mixture was stirred for 1 h. The reaction mixture was diluted with water (400 mL), and the side products were extracted with toluene (3×600 mL). The aqueous phase was evaporated at 35° C. to one fourth of the initial volume and extracted with ethyl acetate (3×900 mL). The extracts were dried over sodium sulfate and evaporated to get the crude product (75 g) as yellow oil, which was used directly to the next step without purification.

reactant | ethyl acetoacetate | 1.2 mol, 150 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | formaldehyde | 2.8 mol, 210 mL | C=O | CH2O
reactant | triethylamine | 0.06 mol, 1.0 M, 57 mL | C(C)N(CC)CC | C6H15N
reactant | dioxane | 550 mL | O1CCOCC1 | C4H8O2
solvent | water | 400 mL | O | H2O
product | Ethyl 2,2-bis(hydroxymethyl)-3-oxobutanoate | 75 g | OCC(C(=O)OCC)(C(C)=O)CO | C8H14O5
